US07741327B2
In a Parr shaker bottle was placed (R)-2,2-dimethyl-4-(3-nitro-pyrazol-1-ylmethyl)-oxazolidine-3-carboxylic acid t-butyl ester (1.21 g, 3.71 mmol), 10% palladium on carbon (500 mg) and ethanol (25 mL). The bottle was then placed on the Parr shaker at 50 psi of hydrogen pressure for 5 h. The reaction was then filtered through a pad of celite and washed with ethanol and concentrated in vacuo to afford (R)-4-(3-amino-pyrazol-1-ylmethyl)-2,2-dimethyl-oxazolidine-3-carboxylic acid t-butyl ester (1.07 g, 97%) as a yellow oil: LR-ES-MS m/z calculated for C14H24N4O3 [M]+ 296, observed 297 [M+H]+.

reactant | (R)-2,2-dimethyl-4-(3-nitro-pyrazol-1-ylmethyl)-oxazolidine-3-carboxylic acid t-butyl ester | 3.71 mmol, 1.21 g | C(C)(C)(C)OC(=O)N1C(OC[C@H]1CN1N=C(C=C1)[N+](=O)[O-])(C)C | C14H22N4O5
reactant | hydrogen | [H][H] | H2
catalyst | palladium on carbon | 500 mg | [Pd] | Pd
solvent | ethanol | 25 mL | C(C)O | C2H6O
product | (R)-4-(3-amino-pyrazol-1-ylmethyl)-2,2-dimethyl-oxazolidine-3-carboxylic acid t-butyl ester | 1.07 g, 97% | C(C)(C)(C)OC(=O)N1C(OC[C@H]1CN1N=C(C=C1)N)(C)C | C14H24N4O3
